US07279486B2
Step 1. tert-Butyl(4-fluoro-3-methylphenoxy)dimethylsilane
To a stirred solution of 4-fluoro-3-methylphenol (15 g, 0.12 mol) and imidazole (18 g, 0.26 mol) in N,N-dimethylformamide (100 mL) was added tert-butyl(chloro)dimethylsilane (20 g, 0.13 mol) at 0° C. The reaction mixture was stirred at room temperature for 20 h, and quenched by the addition of water. The aqueous layer was extracted with diethyl ether (400 mL). The combined organic layers were washed with water and brine, dried over magnesium sulfate, and evaporated to afford 30 g (quant.) of the title compound as a yellow oil:

reactant | 4-fluoro-3-methylphenol | 0.12 mol, 15 g | FC1=C(C=C(C=C1)O)C | C7H7FO
reactant | imidazole | 0.26 mol, 18 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(chloro)dimethylsilane | 0.13 mol, 20 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | tert-Butyl(4-fluoro-3-methylphenoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC(=C(C=C1)F)C | C13H21FOSi
